US07915281B2
Under a nitrogen atmosphere, 4-fluoro-N-hydroxybenzenecarboximidoyl chloride (54 g, 230 mmol), prepared as described in Parts A through C of Example 11, was added to a solution of 2-chloro-3-nitro-N-prop-2-ynylquinolin-4-amine (30.2 g, 115 mmol), prepared as described in Part A of Example 3, in dichloromethane (1 L) at room temperature. Triethylamine (26 g, 250 mmol) was added; a precipitate formed. The resulting mixture was heated at 40° C. under nitrogen for 16.5 hours and concentrated under reduced pressure. The resulting solid was dissolved in ethyl acetate, and the work-up and isolation procedures described in Part B of Example 18 were followed to provide 36.12 g of 2-chloro-N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-3-nitroquinolin-4-amine as a yellow solid.

reactant | 4-fluoro-N-hydroxybenzenecarboximidoyl chloride | 230 mmol, 54 g | FC1=CC=C(C=C1)C(=NO)Cl | C7H5ClFNO
reactant | 2-chloro-3-nitro-N-prop-2-ynylquinolin-4-amine | 115 mmol, 30.2 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC#C | C12H8ClN3O2
reactant | Triethylamine | 250 mmol, 26 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2-chloro-N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-3-nitroquinolin-4-amine | 36.12 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC1=CC(=NO1)C1=CC=C(C=C1)F | C19H12ClFN4O3
